US07989394B2
3.3 2-(3,5-Dimethyl-phenyl)-1-(1-methyl-1H-pyrazol-4-yl)-ethylamine
A solution of RS 2-methyl-propane-2-sulfinic acid [2-(3,5-dimethyl-phenyl)-1-(1-methyl-1H-pyrazol-4-yl)-ethyl]-amide (2.0 g) in methanol (12 ml) was treated with a solution of hydrogenchloride in dioxane (12 ml, 4 N) at room temperature overnight. The reaction mixture was quenched with aqueous potassium carbonate solution and adjusted to pH 8-9, extracted and the organic phases dried over magnesium sulfate. After evaporation of the solvent a yellowish oil was obtained in 77% yield (1.05 g).

reactant | 2-methyl-propane-2-sulfinic acid [2-(3,5-dimethyl-phenyl)-1-(1-methyl-1H-pyrazol-4-yl)-ethyl]-amide | 2.0 g | CC=1C=C(C=C(C1)C)CC(C=1C=NN(C1)C)NS(=O)C(C)(C)C | C18H27N3OS
reactant | hydrogenchloride | Cl | ClH
solvent | methanol | 12 ml | CO | CH4O
solvent | dioxane | 4 N, 12 ml | O1CCOCC1 | C4H8O2
product | 2-(3,5-Dimethyl-phenyl)-1-(1-methyl-1H-pyrazol-4-yl)-ethylamine | 77% yield | CC=1C=C(C=C(C1)C)CC(C=1C=NN(C1)C)N | C14H19N3
